US07683091B2
To 5-nitro-1H-indole (5.18 g, 31.93 mmol) in acetone (200 ml) at ambient temperature under a nitrogen atmosphere was added cesium carbonate (21.80 g, 67.06 mmol) followed by 3-phenyl-2-trifluoromethanesulfonyloxy-propionic acid methyl ester (10.96 g, 35.13 mmol). The resulting dark red mixture was stirred for 5 hours, concentrated in vacuo to a brown powder which was then partitioned between H2O (100 ml) and EtOAc (300 ml). All organics were combined, extracted with brine (250 ml), dried with MgSO4, filtered, and concentrated in vacuo. Gradient SiO2 chromatography (Hexane:EtOAc) afforded 2-(5-nitro-indol-1-yl)-3-phenyl-propionic acid methyl ester as an opaque syrup (5.91 g, 57% yield): MS (ESI) m/z 325, MS (ESI) m/z 323.

reactant | 5-nitro-1H-indole | 31.93 mmol, 5.18 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | cesium carbonate | 67.06 mmol, 21.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-phenyl-2-trifluoromethanesulfonyloxy-propionic acid methyl ester | 35.13 mmol, 10.96 g | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | Hexane | CCCCCC | C6H14
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-nitro-indol-1-yl)-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)N1C=CC2=CC(=CC=C12)[N+](=O)[O-])=O | C18H16N2O4
